US07323472B2
To the solution of 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde (2 g, 7.36 mmol) in benzene (20 mL) was introduced NH3 gas for 30 minutes (hereinafter “min”). The formed solid was then filtered and recrystalized from EtOAc (15 mL) to give 1.18 g (80%) of pure 4-amino-6-chloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 2.50 (s, 3H), 7.28 (t, 3H, J=45 Hz, D2O exchangeable), 8.65 (d, 3H, J=41 Hz, D2O exchangeable), 10.11 (s, 1H).

reactant | 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 7.36 mmol, 2 g | ClC1=NC(=NC(=C1C=O)Cl)SC | C6H4Cl2N2OS
reactant | NH3 | N | H3N
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 4-amino-6-chloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 1.18 g, 80% | NC1=NC(=NC(=C1C=O)Cl)SC | C6H6ClN3OS
